US07091220B2
Dimethyl-[(1-methyl-1H-indol-3-yl)-phenylmethyl]-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methyl-1H-indole and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 1-methyl-1H-indole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | Dimethyl-[(1-methyl-1H-indol-3-yl)-phenylmethyl]-amine | CN(C(C1=CC=CC=C1)C1=CN(C2=CC=CC=C12)C)C | C18H20N2
